US05962458
A suspension of 4-chloro-7-(2-(1,2,4-triazol-1-yl)ethoxy)-6-methoxyquinazoline (214 mg, 0.7 mmol), 4-bromo-2-fluoroaniline (160 mg, 0.84 mmol) in isopropanolic hydrogen chloride (1 ml of a 5M solution) and isopropanol (5 ml) was heated at 80 ° C. for 1 hour. The mixture was allowed to cool, the precipitate was collected by filtration, washed with isopropanol and then ether and dried under vacuum at 70° C. to give 4-(4-bromo-2-fluoroanilino)-7-(2-(1,2,4-triazol-1-yl)ethoxy)-6-methoxyquinazoline hydrochloride (55 mg, 15%).

reactant | 4-chloro-7-(2-(1,2,4-triazol-1-yl)ethoxy)-6-methoxyquinazoline | 0.7 mmol, 214 mg | ClC1=NC=NC2=CC(=C(C=C12)OC)OCCN1N=CN=C1 | C13H12ClN5O2
reactant | 4-bromo-2-fluoroaniline | 0.84 mmol, 160 mg | BrC1=CC(=C(N)C=C1)F | C6H5BrFN
reactant | isopropanol | 5 ml | C(C)(C)O | C3H8O
solvent | hydrogen chloride | Cl | ClH
product | 4-(4-bromo-2-fluoroanilino)-7-(2-(1,2,4-triazol-1-yl)ethoxy)-6-methoxyquinazoline hydrochloride | 55 mg, 15% | Cl.BrC1=CC(=C(NC2=NC=NC3=CC(=C(C=C23)OC)OCCN2N=CN=C2)C=C1)F | InChI=1S/C19H16BrFN6O2.ClH/c1-28-17-7-13-16(8-18(17)29-5-4-27-11-22-9-25-27)23-10-24-19(13)26-15-3-2-12(20)6-14(15)21;/h2-3,6-11H,4-5H2,1H3,(H,23,24,26);1H
